US07176242B2
methyl 3-cyano-5-[(dipropylamino)carbonyl]benzoate
Methyl 3-bromo-5-[(dipropylamino)carbonyl]benzoate (Preparation 3) (0.15 g), copper (I) cyanide, and N-methylpyrrolidinone (1 mL) was heated at 150° C. overnight, at which time the mixture was cooled and partitioned between ethyl acetate and aq. HCl (1N). The organic layer was dried (magnesium sulfate), concentrated under reduced pressure, and the residue was chromatographed on silica gel using ethyl acetate-hexane (20/80) to give 0.066 g of the desired product. ms (m+H) 289.2. See also preparation 7 for the preparation of the acid.

reactant | Methyl 3-bromo-5-[(dipropylamino)carbonyl]benzoate | 0.15 g | BrC=1C=C(C(=O)OC)C=C(C1)C(=O)N(CCC)CCC | C15H20BrNO3
reactant | copper (I) cyanide | [Cu]C#N
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | methyl 3-cyano-5-[(dipropylamino)carbonyl]benzoate | 0.066 g | C(#N)C=1C=C(C(=O)OC)C=C(C1)C(=O)N(CCC)CCC | C16H20N2O3
